US04661477
A mixture of 11 g. (0.1 moles) of dimethyl phosphite, 20 ml. of water and 20 ml. of methanol is reacted with a mixture of 10.31 g. (0.1 moles) of 3-ethoxypropyl amine and 30 ml. of methanol as described in Example 1. 19.7 g. of 3-ethoxypropyl-ammoniummethyl phosphonate are obtained. Yield: 98.9%. nD30 1.4425.

reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | water | O | H2O
reactant | 3-ethoxypropyl amine | 0.1 moles | C(C)OCCCN | C5H13NO
solvent | methanol | CO | CH4O
product | 3-ethoxypropyl-ammoniummethyl phosphonate | Yield: 98.9% | CP([O-])([O-])=O.C(C)OCCC[NH3+].C(C)OCCC[NH3+] | InChI=1S/2C5H13NO.CH5O3P/c2*1-2-7-5-3-4-6;1-5(2,3)4/h2*2-6H2,1H3;1H3,(H2,2,3,4)
